US08557983B2
methyl 2-(6-chloro-5-fluoropyridin-3-yloxy)-4-fluorobenzoate
To a solution of 6-chloro-5-fluoropyridin-3-ol (0.977 g) in 2-methyltetrahydrofuran (12 mL) was added potassium 2-methylpropan-2-olate (1.0M in tetrahydrofuran, 7.28 mL). After stirring for 15 minutes at room temperature, methyl 2,4-difluorobenzoate (1.710 g) was added as a solution in 2-methyltetrahydrofuran (2 mL) followed by N,N-dimethylformamide (2 mL) then the reaction was heated to 75° C. under a nitrogen atmosphere. After stirring overnight the reaction was cooled, diluted with ethyl acetate (100 mL) and washed with water (50 mL) and brine (50 mL), dried over magnesium sulfate, filtered, and concentrated. Silica gel chromatography (GraceResolv 40 g) eluting with a gradient of 2% to 15% ethyl acetate/hexanes gave the title compound.

reactant | 6-chloro-5-fluoropyridin-3-ol | 0.977 g | ClC1=C(C=C(C=N1)O)F | C5H3ClFNO
reactant | potassium 2-methylpropan-2-olate | 1.0M, 7.28 mL | CC(C)(C)[O-].[K+]
reactant | methyl 2,4-difluorobenzoate | 1.710 g | FC1=C(C(=O)OC)C=CC(=C1)F | C8H6F2O2
reactant | N,N-dimethylformamide | 2 mL | CN(C=O)C | C3H7NO
solvent | 2-methyltetrahydrofuran | 12 mL | CC1OCCC1 | C5H10O
solvent | 2-methyltetrahydrofuran | 2 mL | CC1OCCC1 | C5H10O
solvent | ethyl acetate | 100 mL | C(C)(=O)OCC | C4H8O2
product | methyl 2-(6-chloro-5-fluoropyridin-3-yloxy)-4-fluorobenzoate | ClC1=C(C=C(C=N1)OC1=C(C(=O)OC)C=CC(=C1)F)F | C13H8ClF2NO3
